US08048926B2
In another exemplary particular, L-DOPA is reacted with a carboxylic anhydride (e.g., a mixture of acetic acid and acetic anhydride), to thereby produce a N-carbonyl L-DOPA derivative (e.g., N-acetyl L-DOPA).

reactant | L-DOPA | O=C(O)[C@@H](N)CC1=CC=C(O)C(O)=C1 | C9H11NO4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-carbonyl L-DOPA | C(=O)=N[C@H](C(=O)O)CC1=CC=C(O)C(O)=C1 | C10H9NO5
